US07282496B2
Methyl 3-Hydroxy-2-(4-methoxybenzenesulfonylamino)propionate
To a mixture of D,L-serine, methyl ester (5.0 g, 32.14 mmol) and triethylamine (15.7 ml, 0.012 mmol) in methylene chloride (100 ml), cooled to 0° C., was added, in portions, 4-methoxybenzenesulfonyl chloride (6.64 g, 32.14 mmol). The mixture was then stirred under argon at room temperature for 48 hours. The reaction was diluted with methylene chloride (100 ml), washed with water (60 ml), 2N citric acid (60 ml), saturated sodium chloride (60 ml), and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give a solid. Crystallization from ethyl acetate gave 5.0 g (54%) of the product as white crystals, mp 92-94° C.

reactant | D,L-serine, methyl ester | 32.14 mmol, 5.0 g | NC(CO)C(=O)OC | C4H9NO3
reactant | 4-methoxybenzenesulfonyl chloride | 32.14 mmol, 6.64 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 0.012 mmol, 15.7 ml | C(C)N(CC)CC | C6H15N
product | Methyl 3-Hydroxy-2-(4-methoxybenzenesulfonylamino)propionate | 5.0 g, 54% | OCC(C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OC | C11H15NO6S
